US07456200B2
1-[3-(3-Chloro-phenyl)-isoxazol-5-yl]-ethanol
3-Chloro-benzohydroximoyl chloride (e.g. Kim, Jae Nyoung; Ryu, Eung K; J. Org. Chem. (1992), 57(24), 6649-50) (2.84 g, 14.8 mmol) was suspended in benzene (50 ml) and cooled to 0° C. 3-Butyn-2-ol (2.10 g, 29.9 mmol) and triethylamine (1.89 ml, 26.7 mmol) were added. The mixture was heated to 60° C. for 1.5 houes, cooled and diluted with benzene and 1N aqueous hydrochloric acid. After stirring, the separated benzene layer was evaporated to dryness and the crude purified via flash chromatography over silica using heptane/ethyl acetate=5/1 giving after drying in vacuo the title compound (0.49 g, 15%). 1H NMR (CDCl3), δ (ppm): 1.64 (d, 3 H), 5.07 (dq, 1 H), 6.50 (s, 1 H), 7.40 (m, 2 H), 7.68 (m, 1 H), 7.79 (m, 1 H)

reactant | 3-Chloro-benzohydroximoyl chloride | 14.8 mmol, 2.84 g | ClC=1C=C(C(=NO)Cl)C=CC1 | C7H5Cl2NO
reactant | 3-Butyn-2-ol | 29.9 mmol, 2.10 g | CC(C#C)O | C4H6O
reactant | triethylamine | 26.7 mmol, 1.89 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | hydrochloric acid | 1N | Cl | ClH
product | 1-[3-(3-Chloro-phenyl)-isoxazol-5-yl]-ethanol | ClC=1C=C(C=CC1)C1=NOC(=C1)C(C)O | C11H10ClNO2
